US08372807B2
A mixture of 1-(naphthalen-1-yl)-1H-pyrazol-5-ol (250 mg, 1.2 mmol), ethyl bromoisobutyrate (0.2 mL, 1.3 mmol) and potassium carbonate (318 mg, 1.3 mmol) in DMF (3 mL) was stirred at room temperature for 16 hours. Water was then added to the reaction mixture, extracted with ethyl acetate, dried over sodium sulfate and concentrated. Purification by preparative thin layer chromatography (95% dichloromethane/5% methanol) afforded ethyl 2-methyl-2-(1-(naphthalen-1-yl)-1H-pyrazol-5-yloxy)propanoate as a solid.

reactant | 1-(naphthalen-1-yl)-1H-pyrazol-5-ol | 1.2 mmol, 250 mg | C1(=CC=CC2=CC=CC=C12)N1N=CC=C1O | C13H10N2O
reactant | ethyl bromoisobutyrate | 1.3 mmol, 0.2 mL | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | potassium carbonate | 1.3 mmol, 318 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | ethyl 2-methyl-2-(1-(naphthalen-1-yl)-1H-pyrazol-5-yloxy)propanoate | CC(C(=O)OCC)(C)OC1=CC=NN1C1=CC=CC2=CC=CC=C12 | C19H20N2O3
